US05583222
Compound (W) used in Examples (U8) and (U9) was obtained from tert-butyl (3R,4R)-3-azido-4-(benzyloxy)-hexahydro-1H-azepine-1-carboxylate (see Example (S) by debenzylation with trifluoroacetic acid to tert-butyl (3R, 4R)-3-azido-4-hydroxy-azepane-1-carboxylate and O-alkylation of this compound with (4-bromomethyl-phenyl)-(5-methoxy-2-methoxymethoxy-phenyl)methanone. The latter compound was obtained by the bromination of (4-hydroxymethyl-phenyl)-(5-methoxy-2-methoxymethoxy-phenyl)-methanone (M8).

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (3R, 4R)-3-azido-4-hydroxy-azepane-1-carboxylate | N(=[N+]=[N-])[C@@H]1CN(CCC[C@H]1O)C(=O)OC(C)(C)C | C11H20N4O3
reactant | (4-bromomethyl-phenyl)-(5-methoxy-2-methoxymethoxy-phenyl)methanone | BrCC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC)OCOC | C17H17BrO4
product | (4-hydroxymethyl-phenyl)-(5-methoxy-2-methoxymethoxy-phenyl)-methanone | OCC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC)OCOC | C17H18O5
